US07507740B2
(ii) Production of N-{3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}-5-{2-[2-(methylsulfonyl)ethoxy]ethyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine
N-{3-Chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}-5-{2-[2-(methylthio)ethoxy]ethyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine (70.0 mg) was dissolved in dichloromethane (5.0 mL), titanium tetraisopropoxide (0.10 mL), methanol (0.50 mL) and 70% aqueous tert-butyl hydroperoxide solution (8.0 mL) were added, and the mixture was stirred at room temperature for 1 hr. Saturated aqueous sodium thiosulfate solution was added to the reaction mixture under ice-cooling, and the mixture was stirred at room temperature for 1 hr and extracted with dichloromethane. The extract was dried over magnesium sulfate and concentrated, and the residue was separated and purified by silica gel column chromatography (eluent, ethyl acetate:methanol=100:0→ethyl acetate:methanol=90:10). Crystallization from diethyl ether/ethyl acetate/hexane gave the title compound (62.5 mg).

reactant | N-{3-Chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}-5-{2-[2-(methylthio)ethoxy]ethyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 70.0 mg | ClC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NC=1C2=C(N=CN1)C=CN2CCOCCSC | C24H22ClF3N4O2S
reactant | methanol | 0.50 mL | CO | CH4O
reactant | tert-butyl hydroperoxide | 8.0 mL | C(C)(C)(C)OO | C4H10O2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
catalyst | titanium tetraisopropoxide | 0.10 mL | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
product | N-{3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}-5-{2-[2-(methylsulfonyl)ethoxy]ethyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 62.5 mg | ClC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NC=1C2=C(N=CN1)C=CN2CCOCCS(=O)(=O)C | C24H22ClF3N4O4S
